US08633173B2
[8-(3-Methanesulfonyl-phenyl)-[1,2,4]triazolo[1,5-a]pyridin-2-yl]-(4-morpholin-4-yl-phenyl)-amine
The title compound was prepared from 8-(3-methanesulfonyl-phenyl)-[1,2,4]triazolo[1,5-a]pyridin-2-ylamine (100.0 mg, 0.3468 mmol) and 4-(4-bromo-phenyl)-morpholine (101.0 mg, 0.4172 mmol) in a manner analogous to Step 2d and was isolated as a pale yellow solid (0.025 g, 16%). MP=202-204° C. 1H NMR (400 MHz, CDCl3, δ, ppm): 8.68 (t, J=1.6, 1H), 8.46 (dd, J=6.9, 0.9 Hz, 1H), 8.39-8.35 (m, 1H), 8.01-7.98 (m, 1H), 7.73 (dd, J=7.7, 7.7 Hz, 1H), 7.67 (dd, J=7.5, 0.8 Hz, 1H), 7.56-7.50 (m, 2H), 7.01-6.94 (m, 3H), 6.72 (s, 1H), 3.90-3.86 (m, 4H), 3.14-3.10 (m, 7H). MS=450 (MH)+.

reactant | 8-(3-methanesulfonyl-phenyl)-[1,2,4]triazolo[1,5-a]pyridin-2-ylamine | 0.3468 mmol, 100.0 mg | CS(=O)(=O)C=1C=C(C=CC1)C=1C=2N(C=CC1)N=C(N2)N | C13H12N4O2S
reactant | 4-(4-bromo-phenyl)-morpholine | 0.4172 mmol, 101.0 mg | BrC1=CC=C(C=C1)N1CCOCC1 | C10H12BrNO
product | [8-(3-Methanesulfonyl-phenyl)-[1,2,4]triazolo[1,5-a]pyridin-2-yl]-(4-morpholin-4-yl-phenyl)-amine | CS(=O)(=O)C=1C=C(C=CC1)C=1C=2N(C=CC1)N=C(N2)NC2=CC=C(C=C2)N2CCOCC2 | C23H23N5O3S
